US04079179
A mixture of 5% Pd on charcoal (120 mg., prereduced in 1:1 THF-MeOH), the major isomer of p-nitrobenzyl 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate (60 mg.), and 1:1 THF-MeOH (3 ml.) is hydrogenated at atmospheric pressure and room temperature for 3 hrs. The mixture is filtered and the filtrate is evaporated in vacuo. Trituration of the residue with Et2O provides a white solid (50 mg.). The solid is taken up in EtOAc (5 ml.) and filtered. The EtOAc filtrate is extracted with saturated aqueous NaHCO3 (3 × 2 ml.). The combined extracts are acidified to pH 2 with 10% HCl and extracted with EtOAc (4 × 3 ml.). The EtOAc extracts are washed with brine, dried over MgSO4, filtered, and evaporated in vacuo to yield 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylic acid (34 mg.) as a white solid.

reactant | p-nitrobenzyl 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylate | 60 mg | S1C(=CC=C1)CC(=O)NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)OC | C24H23N3O9S2
reactant | THF MeOH | 3 ml | C1CCOC1.CO
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
catalyst | Pd on charcoal | 120 mg | [Pd] | Pd
product | 7-(2-thienylacetamido)-6-methoxy-3-acetoxymethyl-ceph-3-em-4-carboxylic acid | 34 mg | S1C(=CC=C1)CC(=O)NC1[C@@]2(N(C(=C(CS2)COC(C)=O)C(=O)O)C1=O)OC | C17H18N2O7S2
